* ============================================================
* FILE: channel_24x.lib
* DESC: 24 cascaded channel sections as a subcircuit.
*
* Ports: IN  OUT  GND
*
* Usage:
*   .INCLUDE "channel_section.lib"
*   .INCLUDE "channel_24x.lib"
*   XCHAN  IN  OUT  0  CHANNEL_24X
* ============================================================

.SUBCKT CHANNEL_24X IN OUT GND

X1   IN    N1   GND  CHANNEL_SECTION
X2   N1    N2   GND  CHANNEL_SECTION
X3   N2    N3   GND  CHANNEL_SECTION
X4   N3    N4   GND  CHANNEL_SECTION
X5   N4    N5   GND  CHANNEL_SECTION
X6   N5    N6   GND  CHANNEL_SECTION
X7   N6    N7   GND  CHANNEL_SECTION
X8   N7    N8   GND  CHANNEL_SECTION
X9   N8    N9   GND  CHANNEL_SECTION
X10  N9    N10  GND  CHANNEL_SECTION
X11  N10   N11  GND  CHANNEL_SECTION
X12  N11   N12  GND  CHANNEL_SECTION
X13  N12   N13  GND  CHANNEL_SECTION
X14  N13   N14  GND  CHANNEL_SECTION
X15  N14   N15  GND  CHANNEL_SECTION
X16  N15   N16  GND  CHANNEL_SECTION
X17  N16   N17  GND  CHANNEL_SECTION
X18  N17   N18  GND  CHANNEL_SECTION
X19  N18   N19  GND  CHANNEL_SECTION
X20  N19   N20  GND  CHANNEL_SECTION
X21  N20   N21  GND  CHANNEL_SECTION
X22  N21   N22  GND  CHANNEL_SECTION
X23  N22   N23  GND  CHANNEL_SECTION
X24  N23   OUT  GND  CHANNEL_SECTION

.ENDS CHANNEL_24X
