* ============================================================
* FILE: channel_section.lib
* DESC: One section of a scalable channel model
*       Based on Figure 1(a) from Razavi
*
* Topology (left to right):
*   IN +--[L1=470pH]-----------------------------[L2=77.3pH]--+----------- OUT
*      +--[R1=5.55Ω]---+   |               |                  |
*                          [R2=2kΩ]        [R3=100Ω]          [C3=30.9fF]
*			   |               |                  |
*                          [C1=200fF]      [C2=80fF]          GND
*                          |               |
*                          GND             GND
*
*
* Ports: IN  OUT  GND
* ============================================================

.SUBCKT CHANNEL_SECTION IN OUT GND

* Series inductor + parallel resistor (left branch)
L1  IN   N1   470p
R1  IN   N1   5.55

* First shunt: 2kΩ in series with 200fF
R2  N1   N2  2k
C1  N2   GND  200f

* Second shunt: 100Ω in series with 80fF
R3  N1   N3   100
C2  N3   GND  80f

* Series inductor (right branch)
L2  N1   OUT  77.3p

* Output shunt capacitor 30.9fF
C3  OUT  GND  30.9f

.ENDS CHANNEL_SECTION
