* ============================================================
* FILE: ctle_high_power.lib
* DESC: High-power CTLE stage (single stage, full tail current)
*
* Topology: differential pair with source degeneration
*   - Tail current: 1.25 mA per side  (total 2.5 mA, P = 2.5 mW at VDD=1V)
*   - Drain resistor RD: 400 ohm
*   - Source degeneration: RS = 400 ohm || CS = 150 fF
*
* Pole/zero placement (Razavi method):
*   Zero:  fz = 1 / (2*pi * RS * CS)
*   Pole:  fp = 1 / (2*pi * RD * CL)   where CL is total drain capacitance
*   Boost factor at fz: A = 1 + Gm*RS/2
*
* Ports: INP  INM  OUTP  OUTM  VDD  GND
*
* Output convention (CS stages are inverting):
*   OUTP = DRN2 (INM side — non-inverting)
*   OUTM = DRN1 (INP side — inverting)
*
* ============================================================

       .lib '../lib/opConditions.lib' TTTT

.SUBCKT CTLE_HIGH_POWER INP INM OUTP OUTM VDD GND

* ── Left side: INP → OUTM (inverting) ─────────────────────
M1  OUTM  INP  SRC1  SRC1  nmos  L=45n W=20u
R1  VDD   OUTM  200
I1  SRC1  GND   2.5m

* ── Shared source degeneration ────────────────────────────
* Zero frequency: fz = 1/(2*pi*400*150e-15) ~ 2.65 GHz
* Students: adjust RS and CS to place the zero at the desired frequency
R3  SRC1  SRC2  800
C3  SRC1  SRC2  225f

* ── Right side: INM → OUTP (non-inverting) ────────────────
M2  OUTP  INM  SRC2  SRC2  nmos  L=45n W=20u
R2  VDD   OUTP  200
I2  SRC2  GND   2.5m

.ENDS CTLE_HIGH_POWER
