* ============================================================
* FILE: ctle_low_power.lib
* DESC: Low-power CTLE stage (half tail current, for use x2 cascaded)
* ============================================================           

.SUBCKT CTLE_LOW_POWER INP INM OUTP OUTM VDD GND

* ── Left side: INP → OUTM (inverting) ─────────────────────
M1  OUTM  INP  SRC1  GND  nmos  L=L W=Wctle
R1  VDD   OUTM  Rdctle
I1  SRC1  GND   Ictle

* ── Shared source degeneration ────────────────────────────
R3  SRC1  SRC2  Rsctle 
C3  SRC1  SRC2  Csctle  

* ── Right side: INM → OUTP (non-inverting) ────────────────
M2  OUTP  INM  SRC2  GND  nmos  L=L W=Wctle
R2  VDD   OUTP  Rdctle
I2  SRC2  GND   Ictle

.print dc lx7(M1)
.ENDS CTLE_LOW_POWER
