* ============================================================
* FILE: ctle_low_power.lib
* DESC: Low-power CTLE stage (half tail current, for use x2 cascaded)
*
* Total power of two cascaded low-power stages equals one high-power stage:
*   High-power:  2 x 1.25mA  x  1V = 2.5 mW
*   Low-power:  (2 x 0.625mA x  1V) x 2 stages = 2.5 mW  (same budget)
*
* Halving the tail current halves Gm, which changes the boost factor.
* Students must re-derive RS and CS to achieve the same target boost
* while accounting for the interstage loading between the two stages
* (output R of stage 1 drives input C of stage 2).
*
* Ports: INP  INM  OUTP  OUTM  VDD  GND
*
* Output convention (CS stages are inverting):
*   OUTP = DRN2 (INM side — non-inverting)
*   OUTM = DRN1 (INP side — inverting)
*
* ============================================================

       .lib "../lib/opConditions.lib" TTTT

           

.SUBCKT CTLE_ULTRA_LOW_POWER INP INM OUTP OUTM VDD GND

* ── Left side: INP → OUTM (inverting) ─────────────────────
           M1  OUTM  INP  SRC1  SRC1  nmos  L=45n W=6.66u
R1  VDD   OUTM  380
           I1  SRC1  GND   0.833m

* ── Shared source degeneration ────────────────────────────
* Students: recalculate RS and CS for the new Gm
           R3  SRC1  SRC2  400 
           C3  SRC1  SRC2  150f

* ── Right side: INM → OUTP (non-inverting) ────────────────
           M2  OUTP  INM  SRC2  SRC2  nmos  L=45n W=6.66u
R2  VDD   OUTP  380
           I2  SRC2  GND   0.833m

.print dc lx7(M1)
.ENDS CTLE_ULTRA_LOW_POWER

