* ============================================================
* FILE: latch.lib
* DESC: CML Latch
*
* ============================================================

.SUBCKT LATCH INP INM CLK CLKBAR X Y VDD GND

* ── Sampling Stage  ─────────────────────
M1  X  INP  SRC1  SRC1  nmos  L=L W=Wlatch
R1  VDD   X  RD
M2  Y  INM  SRC1  SRC1  nmos  L=L W=Wlatch
R2  VDD   Y  RD

* -- Regenerating Stage -----------------
M3  Y  X    SRC2  SRC2  nmos  L=L W='Wlatch * 2'
M4  X  Y    SRC2  SRC2  nmos  L=L W='Wlatch * 2'

* -- Current sources
* Ideal VCCS rather than FET
GCLK SRC1 GND CLK GND Itail
GCLKBAR SRC2 GND CLKBAR GND Itail
      *ICLK SRC1 GND 30u
      *    ICLKBBAR SRC2 GND 30u

.print dc lx7(M1)
.ENDS LATCH
