* ============================================================
* FILE: latch.lib
* DESC: CML Latch
*
* ============================================================

.SUBCKT SUM_LATCH IN_P IN_M PC1_P PC1_M PC2_P PC2_M CLK CLKBAR X Y VDD GND

* ── Sampling Stage  ─────────────────────
M1  X  IN_P  SRC1  GND  nmos  L=L W=W1
R1  VDD   X  RD
M2  Y  IN_M  SRC1  GND  nmos  L=L W=W1
R2  VDD   Y  RD

      * -- Post cursor 1 stage
M3 X PC1_P SRC2 GND nmos L=L W=W2
M4 Y PC1_M SRC2 GND nmos L=L W=W2

* -- Post cursor 2 stage
M5 X PC2_P SRC3 GND nmos L=L W=W3
M6 Y PC2_M SRC3 GND nmos L=L W=W3

* -- Regenerating Stage -----------------
M7  Y  X    SRC4  GND  nmos  L=L W='W4 * 2'
M8  X  Y    SRC4  GND  nmos  L=L W='W4 * 2'

* -- Current sources
* Ideal VCCS rather than FET
GIS1 SRC1 GND CLK GND IS1
GIS2 SRC2 GND CLK GND IS2
GIS3 SRC3 GND CLK GND IS3
GREGEN SRC4 GND CLKBAR GND Itail
      *ICLK SRC1 GND 30u
      *    ICLKBBAR SRC2 GND 30u

.print dc lx7(Mi1)
.ENDS SUM_LATCH
