* ============================================================
* FILE: summer.lib
* DESC: Summer
*
* ============================================================

.SUBCKT SUMMER IN_P IN_M PC1_P PC1_M PC2_P PC2_M A B VDD GND

* ── Sampling Stage  ─────────────────────
M1  A  IN_P  SRC1  GND  nmos  L=L W=W1
R1  VDD   A  RD
M2  B  IN_M  SRC1  GND  nmos  L=L W=W1
R2  VDD   B  RD

      * -- Post cursor 1 stage
M3 A PC1_P SRC2 GND nmos L=L W=W2
M4 B PC1_M SRC2 GND nmos L=L W=W2

* -- Post cursor 2 stage
M5 A PC2_P SRC3 GND nmos L=L W=W3
M6 B PC2_M SRC3 GND nmos L=L W=W3

* -- Current sources
* Ideal VCCS rather than FET
IIS1 SRC1 GND IS1
IIS2 SRC2 GND IS2
IIS3 SRC3 GND IS3

.print dc lx7(M1)
.ENDS SUMMER
